### ISSUE TITLE
[BUG] Declarations are not delimited correctly when there are imports in the code

### ISSUE THREAD

**Issue by BorjaRequena** [augustepoiroux/LeanInteract#40]
**Describe the bug**
The Lean server does not delimit the declarations correctly when there is an import in the code. 

**To Reproduce**
Environment:
- OS: macOS
- Python version 3.12.5
- LeanInteract version 0.11.0

Following the [tutorial on data extraction](https://augustepoiroux.github.io/LeanInteract/stable/user-guide/data-extraction/), you can check the content of the declarations extracted from the server.
```python
code = r"""
def add (a b : Nat) : Nat :=
  a + b

theorem add_comm (a b : Nat) : add a b = add b a := by
  simp [add]
  omega
"""

res = server.run(Command(cmd=code, declarations=True))
for d in res.declarations:
    print(f"Full name: `{d.full_name}`")
    print(f"Kind: `{d.kind}`")
    print(f"Signature: `{d.signature.pp}`")
    print(f"Value: `{d.value.pp}`")
    print("Full declaration:")
    print(d.pp)
    print("---")
```
This correctly identifies the statements, outputing:
```
Full name: `add`
Kind: `definition`
Signature: `(a b : Nat) : Nat`
Value: `:=
  a + b`
Full declaration:
def add (a b : Nat) : Nat :=
  a + b
---
Full name: `add_comm`
Kind: `theorem`
Signature: `(a b : Nat) : add a b = add b a`
Value: `:= by
  simp [add]
  omega`
Full declaration:
theorem add_comm (a b : Nat) : add a b = add b a := by
  simp [add]
  omega
```

Now add a simple `import Mathlib` line at the top of the code.
```python
code = r"""
import Mathlib

def add (a b : Nat) : Nat :=
  a + b

theorem add_comm (a b : Nat) : add a b = add b a := by
  simp [add]
  omega
"""

res = server.run(Command(cmd=SAMPLE_LEAN_CODE, declarations=True))
assert isinstance(res, CommandResponse)
for d in res.declarations:
    print(f"Full name: `{d.full_name}`")
    print(f"Kind: `{d.kind}`")
    print(f"Signature: `{d.signature.pp}`")
    print(f"Value: `{d.value.pp}`")
    print("Full declaration:")
    print(d.pp)
    print("---")
```
The declarations are truncated.
```
Full name: `add`
Kind: `definition`
Signature: `(a b : Nat) : Nat`
Value: `:=
  a`
Full declaration:
def add (a b : Nat) : Nat :=
  a
---
Full name: `add_comm`
Kind: `theorem`
Signature: `(a b : Nat) : add a b`
Value: ``
Full declaration:
theorem add_comm (a b : Nat) : add a b
```

**Expected behavior**
I would expect the declarations to be accurately captured as in the first example.

**Additional context**
I am working on building an automated theorem prover (you can check it out [here](https://github.com/Axiomatic-AI/ax-prover-base)) and we would like to use LeanInteract to robustly extract all the declarations from a piece of Lean code. I'd be happy to provide more information or even try to help :)

**Comment by augustepoiroux** [comment]
Hello!
So here I guess that you are connecting your server to a project that does not include Mathlib in its dependencies. At the moment, a failed import doesn't trigger an exception and only fails silently, breaking the execution of the remaining parts of the code without an explicit trace. There is a [PR](https://github.com/leanprover-community/repl/pull/141) for the Lean REPL trying to fix that.
If you want to use Mathlib, I recommend checking this [page](https://augustepoiroux.github.io/LeanInteract/stable/user-guide/examples/#working-with-mathlib) from the documentation. You can also use a [local lean project](https://augustepoiroux.github.io/LeanInteract/stable/user-guide/custom-lean-configuration/?h=localpro#local-lean-projects) if it has Mathlib as a dependency.

**Comment by BorjaRequena** [comment]
Thanks @augustepoiroux! It was exactly this: providing the Mathlib dependency or a local project solved the problem. Not having any error for the failed import left me with just a weird behaviour and no signal to figure out I was missing the dependency, so I'm glad to see that there's ongoing work to throw an error. Much appreciated, and sorry for the late response.
